US08119663B2
5-(4-Methoxyphenyl)piperidine-3-carboxylic acid hydrochloride [racemic cis isomer]
1.13 g (3.11 mmol) of 1-tert-butyl 3-ethyl 5-(4-methoxyphenyl)piperidine-1,3-dicarboxylate were added to 40 ml of aqueous 1 N hydrochloric acid solution, and the mixture was concentrated on a rotary evaporator. Yield: 829 mg (98% of theory)

reactant | 1-tert-butyl 3-ethyl 5-(4-methoxyphenyl)piperidine-1,3-dicarboxylate | 3.11 mmol, 1.13 g | COC1=CC=C(C=C1)C1CC(CN(C1)C(=O)OC(C)(C)C)C(=O)OCC | C20H29NO5
reactant | hydrochloric acid | 1 N | Cl | ClH
product | 5-(4-Methoxyphenyl)piperidine-3-carboxylic acid hydrochloride | Cl.COC1=CC=C(C=C1)C1CC(CNC1)C(=O)O | InChI=1S/C13H17NO3.ClH/c1-17-12-4-2-9(3-5-12)10-6-11(13(15)16)8-14-7-10;/h2-5,10-11,14H,6-8H2,1H3,(H,15,16);1H
